US09403798B2
2-Chloro-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazine
To a tetrahydrofuran (10 mL)-water (4.0 mL) solution of 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (1.43 g, 6.67 mmol) and sodium carbonate (1.56 g, 14.7 mol), 2,4-dichloro-1,3,5-triazine (1.00 g, 6.67 mmol) was added at 0° C. and the resultant mixture was stirred for 1 hour. After completion of the reaction, ethyl acetate was added to the reaction solution and the resultant mixture was washed with each of saturated ammonium chloride aqueous solution and saturated sodium chloride aqueous solution. The obtained organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform) to obtain the title compound (1.64 g, yield 85%).

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 6.67 mmol, 1.43 g | Cl.FC1=CC=C(C=C1)C=1CCNCC1
reactant | sodium carbonate | 14.7 mol, 1.56 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4-dichloro-1,3,5-triazine | 6.67 mmol, 1.00 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 4.0 mL | O | H2O
product | 2-Chloro-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazine | 1.64 g, yield 85% | ClC1=NC=NC(=N1)N1CC=C(CC1)C1=CC=C(C=C1)F | C14H12ClFN4
